US07696210B2
Pyrido[2,3-b]pyrazine-6-carbaldehyde:
6-Methyl-pyrido[2,3-b]pyrazine (100 mg, 0.69 mmol) was dissolved in dioxane. Selenium dioxide (269 mg, 2.4 mmol) was added, and the suspension was refluxed at 110° C. for 3 minutes. The reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate was washed with brine, dried using magnesium sulfate, and concentrated to yield the title product (55 mg, 50%) as a pink solid. 1H NMR (DMSO-d6): δ=8 s, 1H), 9.31 (d, 1H,J=1.6 Hz), 9.21 (d, 1H, J=1.6 Hz), 8.81 (d, 1H, J=8.5 Hz), 8.42 (d, 1H, J=8.5 Hz). Calculated mass=159, [M+H]+=160.

reactant | 6-Methyl-pyrido[2,3-b]pyrazine | 0.69 mmol, 100 mg | CC=1C=CC=2C(=NC=CN2)N1 | C8H7N3
reactant | Selenium dioxide | 2.4 mmol, 269 mg | [Se](=O)=O | O2Se
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Pyrido[2,3-b]pyrazine-6-carbaldehyde | 55 mg, 50% | N1=C2C(=NC=C1)N=C(C=C2)C=O | C8H5N3O
